2140-07-15 10:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2140-07-16 09:50:00 Physician Attending Progress Note
Chief Complaint: GI bleed, NSTEMI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2140-7-15**] 11:10 AM
 EKG - At [**2140-7-15**] 02:15 PM
 EKG - At [**2140-7-16**] 12:46 AM
 FEVER - 101.9
F - [**2140-7-16**] 05:00 AM
   Overnight persistent rising cardiac enzymes, ECGS unchnaged but faxed
   to cardiology - no ongoing active ischemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2140-7-15**] 11:10 AM
   Midazolam (Versed) - [**2140-7-15**] 11:20 AM
   Pantoprazole (Protonix) - [**2140-7-16**] 08:20 AM
   Other medications: PPI, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-7-16**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.9
C (100.3
   HR: 85 (85 - 98) bpm
   BP: 132/59(76) {117/48(66) - 163/84(95)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 100.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,339 mL
                                                                    558 mL
   PO:
                                                                    500 mL
                                                                    450 mL
   TF:
   IVF:
                                                                    510 mL
                                                                    108 mL
   Blood products:
                                                                  1,329 mL
   Total out:
                                                                  1,750 mL
                                                                    850 mL
   Urine:
                                                                  1,750 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    589 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Gen: alert lying in bed NAD
   CV: RR
   Chest: diminished BS
   Abd: soft NT+bs
   Ext: no edema
   Labs / Radiology
   9.8 g/dL
   219 K/uL
   99 mg/dL
   9.1 mg/dL
   19 mEq/L
   4.2 mEq/L
   84 mg/dL
   103 mEq/L
   141 mEq/L
   29.8 %
   11.4 K/uL
         [image002.jpg]
                             [**2140-7-14**]  11:20 PM
                             [**2140-7-15**]  02:30 AM
                             [**2140-7-15**]  08:38 AM
                             [**2140-7-15**]  12:01 PM
                             [**2140-7-15**]  03:43 PM
                             [**2140-7-15**]  10:43 PM
                             [**2140-7-16**]  04:29 AM
                             [**2140-7-16**]  05:05 AM
   WBC
   9.1
   9.6
   9.3
   10.4
   11.4
   Hct
   20.2
   24.7
   28.6
   28.2
   28.4
   29.1
   29.8
   Plt
   [**Telephone/Fax (3) 8293**]63
   219
   Cr
   7.4
   9.1
   TropT
   0.15
   0.30
   1.12
   1.23
   Glucose
   131
   99
   Other labs: PT / PTT / INR:13.5/23.9/1.2, CK / CKMB /
   Troponin-T:209/14/1.23, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   GI bleed: likely from upper source with ulcerations, continue PPI
   repeat EGD and c scope being recc by GI but likely to happen on Monday
   and they would like Cards clearance in light of ECG and troponins with
   known hx of MI. Cycle HCT, maintain access type and cross
   NSTEMI: hx of MI x 2
 trop up but MB Index on the wane and no chest
   pain. Continue to hold Plavix and ASA (given GI bleed and plan for
   biopsy), will cycle CKs and monitor closely. Cards to consult per GI
   request.
   ESRD: for HD today
   Fevers: source unclear CXR and UA to be done, panculture including HD
   line. Would give a dose of Vanco given known HD line and per Dr
   [**Last Name (STitle) **] it has been malfunctioning a bit at outpt HD( getting TPA etc)
   so could be a likely culprit.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: clears
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-7-14**] 07:12 PM
   Dialysis Catheter - [**2140-7-14**] 07:15 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 156**] status: Full code
   Disposition : call out

2140-07-17 10:42:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2140-7-16**] 08:20 AM
 EKG - At [**2140-7-16**] 08:38 AM
 BLOOD CULTURED - At [**2140-7-16**] 10:59 AM
 FEVER - 102.3
F - [**2140-7-16**] 03:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-7-16**] 01:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-7-17**] 07:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2140-7-17**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36.6
C (97.9
   HR: 73 (73 - 93) bpm
   BP: 137/50(70) {114/45(62) - 147/68(85)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 100.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,121 mL
                                                                    410 mL
   PO:
                                                                    690 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    431 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                    550 mL
   Urine:
                                                                  1,400 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,479 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: alert lying in bed NAD
   CV: RR
   Chest: diminished BS
   Abd: soft NT+bs
   Ext: no edema
   Labs / Radiology
   9.2 g/dL
   195 K/uL
   91 mg/dL
   7.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   57 mg/dL
   100 mEq/L
   140 mEq/L
   28.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2140-7-15**]  12:01 PM
                             [**2140-7-15**]  03:43 PM
                             [**2140-7-15**]  10:43 PM
                             [**2140-7-16**]  04:29 AM
                             [**2140-7-16**]  05:05 AM
                             [**2140-7-16**]  12:05 PM
                             [**2140-7-16**]  05:00 PM
                             [**2140-7-16**]  10:00 PM
                             [**2140-7-17**]  06:00 AM
                             [**2140-7-17**]  06:50 AM
   WBC
   9.3
   10.4
   11.4
   11.2
   6.8
   Hct
   28.2
   28.4
   29.1
   29.8
   27.4
   29.3
   28.3
   Plt
   [**Telephone/Fax (3) 8302**]95
   Cr
   9.1
   5.9
   7.5
   TropT
   1.12
   1.23
   1.72
   1.82
   Glucose
   99
   118
   128
   108
   91
   Other labs: PT / PTT / INR:13.9/27.3/1.2, CK / CKMB /
   Troponin-T:135/5/1.82, Differential-Neuts:73.1 %, Lymph:15.4 %,
   Mono:7.5 %, Eos:3.8 %, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:8.2 mg/dL
   Assessment and Plan
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   GI bleed: likely from upper source with ulcerations, continue PPI
   repeat EGD and c scope being recc by GI but likely to happen on Monday
   and they would like Cards clearance in light of ECG and troponins with
   known hx of MI. Cycle HCT, maintain access type and cross
   NSTEMI: hx of MI x 2
 trop up but MB Index on the wane and no chest
   pain. Continue to hold Plavix and ASA (given GI bleed and plan for
   biopsy), will cycle CKs and monitor closely. Cards to consult per GI
   request.
   ESRD: for HD today
   Fevers: source unclear CXR and UA to be done, panculture including HD
   line. Would give a dose of Vanco given known HD line and per Dr
   [**Last Name (STitle) **] it has been malfunctioning a bit at outpt HD( getting TPA etc)
   so could be a likely culprit.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-7-14**] 07:12 PM
   Dialysis Catheter - [**2140-7-14**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 156**] status: Full code
   Disposition :Transfer to floor
   Total time spent: